US07157488B2
N-(2-(7-Fluoro-1H-indol-3-yl)ethyl-3-(2,2,2-trifluoroethoxy)benzylamine hydrochloride
Add dropwise acetyl chloride (2.3 mL, 32.4 mmol) to anhydrous ethanol (50 mL) and stir the solution for 10 min at ambient temperature and add to a solution N-(2-(7-fluoro-1H-indol-3-yl)ethyl)-3-(2,2,2-trifluoroethoxy)benzylamine (10.7 g, 29.2 mmol) in diethyl ether. Concentrate the resulting solution under reduced pressure to give a yellow solid. Recrystallize the yellow solid from ethyl acetate/methanol to give the title compound: mp 163–164° C.; MS(m/e): 367 (M+1), 365 (M−1); Calculated for C19H18F4N2O HCl: Calcd: C, 56.65; H, 4.75; N, 6.90. Found: C, 56.45; H, 4.54; N, 6.90.

reactant | acetyl chloride | 32.4 mmol, 2.3 mL | C(C)(=O)Cl | C2H3ClO
reactant | ethanol | 50 mL | C(C)O | C2H6O
reactant | N-(2-(7-fluoro-1H-indol-3-yl)ethyl)-3-(2,2,2-trifluoroethoxy)benzylamine | 29.2 mmol, 10.7 g | FC=1C=CC=C2C(=CNC12)CCNCC1=CC(=CC=C1)OCC(F)(F)F | C19H18F4N2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(7-Fluoro-1H-indol-3-yl)ethyl-3-(2,2,2-trifluoroethoxy)benzylamine hydrochloride | Cl.FC=1C=CC=C2C(=CNC12)CCNCC1=CC(=CC=C1)OCC(F)(F)F | InChI=1S/C19H18F4N2O.ClH/c20-17-6-2-5-16-14(11-25-18(16)17)7-8-24-10-13-3-1-4-15(9-13)26-12-19(21,22)23;/h1-6,9,11,24-25H,7-8,10,12H2;1H
